US04226997
(a) Preparation of 8-anilino-5,6,7,8-tetrahydro-2-quinolone
110 g (0.5 mol) of 8-chloro-5,6,7,8-tetrahydro-2-quinolone hydrochloride are suspended in 800 ml of isopropanol and at 80° C. 186 g (2.0 mols) of aniline are added dropwise. A clear solution gradually forms which is refluxed for 10 minutes. The colorless crystalline 8-aniline-5,6,7,8-tetrahydro-2-quinolone separating on cooling is filtered off with suction and washed with acetonitrile. It is obtained in a yield of 94 g, corresponding to 78.3% of the theory and melts at 225° C.

reactant | 8-chloro-5,6,7,8-tetrahydro-2-quinolone hydrochloride | 0.5 mol, 110 g | Cl.ClC1CCCC=2C=CC(NC12)=O
reactant | aniline | 2.0 mols, 186 g | NC1=CC=CC=C1 | C6H7N
solvent | isopropanol | 800 ml | C(C)(C)O | C3H8O
product | 8-anilino-5,6,7,8-tetrahydro-2-quinolone | N(C1=CC=CC=C1)C1CCCC=2C=CC(NC12)=O | C15H16N2O
